US06887886B2
(1) Preparation of Racemic Amlodipine Free Base
To a slight suspension of racemic amlodipine besylate (100.37 g, 0.177 mol) [prepared by the method described in European Patent No. 0244944] in methylene chloride (250 mL, 2.5 mL/g) and water (250 mL, 2.5 mL/g) was added 11 M sodium hydroxide (24 mL) to achieve pH 13-14. The mixture was stirred for ten minutes during which time it became a solution. The layers were separated and the organic layer washed with water (1×250 mL) and gravity filtered through a magnesium sulphate (25 g) bed. The magnesium sulphate was washed with methylene chloride (40 mL) and to the combined filtrates was added dimethyl sulphoxide (360 mL). The methylene chloride was removed on a rotary evaporator (45 minutes on a water aspirator followed by 15 minutes under high vacuum).

reactant | amlodipine besylate | 0.177 mol, 100.37 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN.C=1C=CC(=CC1)S(=O)(=O)O
reactant | water | 250 mL | O | H2O
reactant | sodium hydroxide | 11 M, 24 mL | [OH-].[Na+]
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | Amlodipine Free Base | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
